US04347358
10 g of t-butyl 2-bromo-3-bromomethyl-7-formamido-3-cephem-4-carboxylate-1-oxide in 40 ml of trifluoroacetic acid were stirred for 15 minutes at room temperature and the solvent was removed by evaporation under vacuo. 25 ml of dichloromethane were added to the residue and evaporation to dryness was repeated. A 1:1 mixture of heptane and ether was added to the residue whereafter the slightly yellow crystals were vacuum filtered and were washed with the same solvent mixture to obtain 9.57 g of 2-bromo-3-bromomethyl-7-formamido-3-cephem-4-carboxylic acid-1-oxide having the following characteristics:

reactant | t-butyl 2-bromo-3-bromomethyl-7-formamido-3-cephem-4-carboxylate-1-oxide | 10 g | BrC1S([C@H]2N(C(=C1CBr)C(=O)OC(C)(C)C)C(C2NC=O)=O)=O | C13H16Br2N2O5S
solvent | trifluoroacetic acid | 40 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 2-bromo-3-bromomethyl-7-formamido-3-cephem-4-carboxylic acid-1-oxide | 9.57 g | BrC1S([C@H]2N(C(=C1CBr)C(=O)O)C(C2NC=O)=O)=O | C9H8Br2N2O5S
